US05624948
To a solution of ethyl 4-(2-t-butyldimethylsiloxyethyl)cinnamate (1.9 g) in tetrahydrofuran (6 ml) was added dropwise tetra-n-butylammonium fluoride (1 mol/l solution in tetrahydrofuran, 6.0 ml), and the mixture was stirred at room temperature for 1.5 hours. To the reaction mixture was added water, and the mixture was extracted with diethyl ether. The extract was dried over anhydrous MgSO4. The solvent was removed under reduced pressure, and the residue was treated according to C. J. Kowalski's method described in J. Am. Chem. Soc., Vol.107, No.5, 1429-1430 (1985) to give 2-[4-(3-ethoxycarbonyl-1-propenyl)phenyl]ethyl alcohol (0.42 g) as colorless powder.

reactant | ethyl 4-(2-t-butyldimethylsiloxyethyl)cinnamate | 1.9 g | O([Si](C)(C)C(C)(C)C)CCC1=CC=C(C=CC(=O)OCC)C=C1 | C19H30O3Si
reactant | tetra-n-butylammonium fluoride | 1 mol/l, 6.0 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 2-[4-(3-ethoxycarbonyl-1-propenyl)phenyl]ethyl alcohol | 0.42 g | C(C)OC(=O)CC=CC1=CC=C(C=C1)CCO | C14H18O3
